Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, lightheadedness, and left sided weakness. 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
The pt is a ___, right handed, with hx of HLD on ASA 81mg daily
here with 3 days of headache, gait instability, postural
lightheadedness, left sided weakness, nausea that was worse upon
awakening today, presented to ___ where she was found to
have a right parafalcine IPH with mild surrounding edema,
possible layering on the right tentorium and falx.

She was in her normal state of health until 3 days ago when she
woke up with throbbing frontal headache, difficulty with gait
trying to need to hold on to furniture when walking because of
falling to the left.  Headache is not accompanied by photophobia
or photophobia and was not positional.  No pulsatile tinnitus or
diplopia.  The headache did not wake her up out of sleep.  She
also noted prominent postural lightheadedness with sitting or
standing but denies presyncope or vertigo.  Bending over or
standing from a squatting position but also provoke
lightheadedness.  She also had nausea but no vomiting.  With
walking she has prominent feeling of imbalance and feeling like
she is going to fall.  In addition, she noted that when she 
would
reach for objects with the right or left hand the object would
not be where she thought it was and she would therefore miss. 
She particularly noted this phenomena with her left leg and felt
that this contributed to her gait unsteadiness because the leg
would not go where she wanted to go.  She does feel that her 
left
arm and leg are weaker than the right.

She recently underwent left hip replacement in ___ and
since then has been walking intermittently with a cane.  
However,
prior to 3 days ago her functional status is actually improving
and she was doing to walk on a treadmill.

She tolerated these symptoms for the last 2 days without telling
any of her family.  This morning when she woke up the symptoms
were somewhat worse.  After talking with family that the 
symptoms
she was taken to the ___ where noncontrast head CT 
showed
right frontal parafalcine IPH.

ROS: On neurologic review of systems, the patient confirms the
above and denies any confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies loss of sensation. 

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss. Denies chest pain,
palpitations, cough. Denies vomiting, diarrhea, constipation, or
abdominal pain.

 
Past Medical History:
Hyperlipidemia
GERD
Status post hip replacement ___
Status post traumatic L subdural hematoma at the age of ___ 
status
post burr hole decompression. patient was on a bike v truck in a
motor vehicle accident.
 
Social History:
___
Family History:
Father with ___ disease.  Mother with heart disease.
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================
Vitals: 90 6.8F, HR 57, 135/81, RR 16, 97% on room air
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB anteriorly
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Mildly inattentive, able to name ___
backward but missed ___. Speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. Naming
intact.  No paraphasias.  No dysarthria. Normal prosody. Able to
register 3 objects and recall ___ at 5 minutes, ___ with 
category
cue, got the last with multiple choice. No apraxia. No evidence
of hemineglect. No left-right confusion. Able to follow both
midline and appendicular commands.

Cranial Nerves: PERRL 3->2 brisk. VF full to finger wiggle.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric. SCM
symmetric. L shoulder does not activate as much as the right. 
Tongue midline.

Motor:  Normal bulk and tone. Left mild pronator drift.
Orbiting around L arm. Slowed finger tap on the left. No tremor
or asterixis.
  [Delt][Bic][Tri][ECR][FEx][IP][Quad][Ham][TA] [Gas]
L   4+    5    5    4+   4+   4    5     4+  4+    5  
R   5     5    5    5    5-   4+   5     5-  4+    5    
The leg testing above was when supine and tested with straight
leg raise. Did appear stronger when flexing at the knee. Some
give way especially at bilateral TAs due to ankle pain.  

Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Brisk reflexes, symmetric, possible mild crossed adductor
bilaterally.
Plantar response extensor on the left, flexor on the right. 

Sensory: Decreased light touch on the left but still senses the
light touch. No extinction to DSS. Decreased PP over the left
leg. Able to sense upwards v downwards stroking of the skin in
all four extremities. Inaccurate with touching a spot on the 
skin
with eyes closed - worse with left hand compared to right. 

Coordination: Slowed finger/nose/finger but no dysmetria
bilaterally. Slowed RAM but not clumsy. HKS intact on the right
but on the left, she brought her foot close to her leg but did
not put it on her knee despite encouragement because "I don't
know where my foot is". Unsure if left hip replacement played a
role in this difficulty.

Gait: Stood with some assistance and felt lightheaded, could
not put her feet together - unsteady. Deferred the rest of gait.

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================
24 HR Data (last updated ___ @ 853)
Temp: 98.1 (Tm 98.1) 
BP: 121/78 (102-122/63-78) 
HR: 75 (75-85)
RR: 23 (___) 
O2 sat: 93% (93-96) 
O2 delivery: Ra  

Neurologic examination: 
Mental status: 
Patient is alert and oriented to name, date, and location. 
Patient has no difficulty with speech and normal prosody.  

Cranial nerves: 
No visual field cuts.  Pupils are equal, round, and reactive to
light (3 to 2 mm).  Extraocular movements are without nystagmus. 

Facial sensation is normal and face is symmetric with no droop.  


Motor examination: 
Patient with outstretched arms has cupping on the left and there
is orbiting around the left arm.  Patient's motor exam is 
otherwise full with no weakness in the muscles of upper and 
lower extremities. 

Sensory: 
No neglect and no asymmetry in sensation to light touch. 

Reflexes:
Deferred 

Coordination: 
Patient's previous difficulty for accurately reaching out for 
objects with the left arm is no longer appreciated.  Finger to 
nose on both sides with no difficulty. 

Gait: 
Deferred.  
 
Pertinent Results:
CBC and BMP from ___ are unremarkable. 

Brain MRI ___: 
IMPRESSION:   
1. Unchanged size of a 4.2 cm right parietal posterior 
parafalcine acute to subacute intraparenchymal hematoma, with 
decreased thin parafalcine subdural hematoma along the falx and 
right tentorium. 
2. No definite underlying enhancing mass identified although 
continued 
follow-up to resolution is recommended. 
3. Moderate white matter chronic small vessel ischemic changes 
and area of 
encephalomalacia along the left occipital lobe. 
4. Generalized parenchymal volume loss, likely age related with 
slight 
asymmetry of the left ventricular atrium and left temporal 
ventricular horn. 

CTA Head and Neck ___: 
1. Stable right parietal intraparenchymal hematoma with 
unchanged small amount of blood tracking along the right 
tentorium and falx. 
2. Normal CTA head and neck.  No significant internal carotid 
artery stenosis by NASCET criteria. 

 
Brief Hospital Course:
Patient is an ___ year old female with essentially no past 
medical history whom presented with headache and right sided 
weakness found to have right parafalcine frontoparietal 
intraparenchymal hemorrhage. We are uncertain why the patient 
had this bleed. Patient could have cerebral amyloid angiopathy, 
but she has no micro bleeds on her MRI. This however could 
represent a first bleed.  Patient's blood pressure normal 
throughout hospitalization, therefore unlikely hypertensive.  
Patient's MP-Rage study negative ruling out venous sinus 
thrombosis.  Patient could have underlying mass, but this could 
not be appreciated on imaging this admission.   
Patient was having difficulty with accurately picking up objects 
with her left arm and some neglect of the left side, but this 
resolved on day of discharge.  Patient's examination on 
discharge was normal on discharge.  Patient will however be 
discharged for a short stay with acute rehabilitation to ensure 
to transitions easily back home.  Patient has scheduled stroke 
follow up and repeat imaging studies in three months. 

There were no changes in patient's home medications. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Pantoprazole 40 mg PO Q24H 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Pantoprazole 40 mg PO Q24H  
3.  Simvastatin 20 mg PO QPM  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right parafalcine frontoparietal IPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You presented to the hospital and were found to have a right 
sided brain bleed.  We are uncertain why you had the bleed, but 
thankfully you have minimal residual neurologic deficits.  On 
your left side you have been having difficulty with accurately 
reaching for objects.  Therefore, we will discharge you to acute 
rehabilitation to help maximize your recovery.  We have 
scheduled you for a stroke clinic follow up and repeat imaging 
of your brain 3 months from now to ensure that the bleeding was 
not caused by an underlying mass. 

Thank you for allowing us to care for you, 
___ Neurology
 
Followup Instructions:
___